US09212168B2
Preparation 29: (S)-Methoxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid
A solution of (S)-amino-(tetrahydro-pyran-4-yl)-acetic acid (200 mg, 1.26 mmol) in saturated aqueous sodium bicarbonate solution (2.46 mL, 25.13 mmol) was stirred until all solids were dissolved. Methyl chloroformate (0.19 mL, 2.51 mmol) was added dropwise, the reaction mixture was stirred for 30 min, and 1N HCl was added to adjust pH to 1. The reaction mixture was extracted with ethyl acetate (3×5 mL) and the organic extracts were dried over sodium sulfate, filtered, concentrated and dried overnight under vacuum to give the title intermediate (248 mg, 91% yield) as a white, sticky solid. (m/z): [M+H]+ calcd for C9H15NO5 218.10. found 218.1.

reactant | (S)-amino-(tetrahydro-pyran-4-yl)-acetic acid | 1.26 mmol, 200 mg | N[C@H](C(=O)O)C1CCOCC1 | C7H13NO3
reactant | sodium bicarbonate | 25.13 mmol, 2.46 mL | C([O-])(O)=O.[Na+]
reactant | Methyl chloroformate | 2.51 mmol, 0.19 mL | ClC(=O)OC | C2H3ClO2
reactant | HCl | 1N | Cl | ClH
product | (S)-Methoxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid | 248 mg, 91% yield | COC(=O)N[C@H](C(=O)O)C1CCOCC1 | C9H15NO5
